* ==========================================================================
* @part: BZX79-C2V4
* @family: diodes
* @source: Nexperia
* @url: https://assets.nexperia.com/documents/spice-model/BZX79-C2V4.txt
* @origin-file: manual/nexperia/BZX79-C2V4.txt
* @retrieved: 2026-09-24
* @licence: no licence or copyright text in the vendor file (terms unknown)
* @added-by: garv.singh
* @pins: BZX79-C2V4: 1 2
* The complete origin file follows, unchanged.
* ==========================================================================

*
******************************************
*
*BZX79-C2V4
*
*NXP Semiconductors
*
*Voltage regulator diode
*
*
*
*
* 
*VFmax = 0,9V @ IF = 10mA
*IRmax = 50µA @ VR = 1V
*
*VZmax = 2,6V @ IZ = 5mA
*
*
*
*
* 
*
*
*Package pinning does not match Spice model pinning.
*Package: SOD27 (DO35)
*
*Package Pin 1: Anode
*Package Pin 2: Cathode
*
*
*
*Extraction date (week/year): 51/2015
*Simulator: SPICE2
*
******************************************
*#
.SUBCKT BZX79-C2V4 1 2 
*
R1 1 2 1E+010   
 D1 1 2  
 + DIODE1
 D2 3 1  
 + DIODE2
 VZ 2 3 0.01  
*
*The resistor R1, the diode D2 and VZ do not 
*reflect physical devices. 
*Instead they improve modeling
*in the reverse mode of 
*operation.
*
 .MODEL DIODE1 D 
 + IS = 2E-011   
 + N = 1.53      
 + BV = 2.7      
 + IBV = 1E-009  
 + RS = 0.16     
 + CJO = 1.902E-010      
 + VJ = 0.63     
 + M = 0.29      
 + FC = 0.5      
 + TT = 0
 + EG = 1.1      
 + XTI = 3       
 .MODEL DIODE2 D 
 + IS = 1E-009   
 + N = 5.1       
 + RS = 66       
 .ENDS   
*
