* ==========================================================================
* @part: BZX55C3V9
* @family: diodes
* @source: Vishay
* @url: https://www.vishay.com/doc?84089
* @origin-file: vishay/BZX55C3V9.txt
* @retrieved: 2026-09-24
* @licence: notice: "(c)2000 Thomatronik GmbH info@thomatronik.de"
* @added-by: garv.singh
* @pins: bzx55c3v9: 1 2
* @patched: spiceconv dots (7 change(s)), r-model (4 change(s))
* The complete origin file follows (modified, see @patched).
* ==========================================================================

****************************************

* (c)2000 Thomatronik GmbH             *

*   info@thomatronik.de                *

*                                      *

* Author: Arpad Buermen                *

*   Arpad.Burmen@ieee.org              *

*   Arpad.Buermen@fe.uni-lj.si         *

****************************************



* Version: SPICE3

*                    anode     cathode

* Reverse direction: node 1 <- node 2



.SUBCKT bzx55c3v9 1 2

DF 1 2 DFMOD

.MODEL DFMOD D(N=1.19275 IS=2.18787E-013 RS=1.03072 EG=1.11167 XTI=3.05573  TT=1E-006 CJO=2.98E-010 VJ=2.88 M=0.33)

* Leakage

RL 1 2 500000 tc1=0.0076 tc2=0


* Breakdown

EZ 2 3 9 0 1

VZC 4 3 9.22476

D1 4 5 DMOD1 TEMP=27

.MODEL DMOD1 D(IS=1e-12 N=16.0012 RS=1.00186 TNOM=27)

VD 6 5 0.000690018

D2 6 1 DMOD2 TEMP=27

.MODEL DMOD2 D(IS=1e-12 N=1.00517 TNOM=27)

ID 5 1 0.161192

RD 5 1 0.0847951

I1 0 9 0.001

RVZ 9 0 3900 tc1=-0.0005 tc2=0




.ENDS
