* ==========================================================================
* @part: BZX55C5V1
* @family: diodes
* @source: Vishay
* @url: https://www.vishay.com/doc?84090
* @origin-file: vishay/BZX55C5V1.txt
* @retrieved: 2026-09-24
* @licence: notice: "Copyright: Thomatronik GmbH, Germany"
* @added-by: garv.singh
* @pins: bzx55c5v1: 1 9
* @patched: spiceconv dots (7 change(s)), r-model (4 change(s))
* The complete origin file follows (modified, see @patched).
* ==========================================================================

**********************************

* Model created by               *

*   Uni.Dipl.-Ing. Arpad Buermen *

*   arpad.burmen@ieee.org        *

* Copyright:                     *

*   Thomatronik GmbH, Germany    *

*   info@thomatronik.de          *

**********************************

* February 2001

*   SPICE3

*                    anode     cathode

* Reverse direction: node 1 <- node 9

.SUBCKT bzx55c5v1 1 9

DF 1 9 DFMOD

.MODEL DFMOD D N = 2 IS = 1.9E-009 RS = 0.36459  EG = 1.11 XTI = 3  CJO = 1.71713E-010 VJ = 0.490432 M = 0.5 FC = 0.5  TT = 1E-008 TNOM = 25

* Leakage

RL 1 9 1.05263E+007 tc1=0 tc2=0


* Breakdown

ES 9 90 10 20 1

DR1 90 31 DREV1 TEMP = 25

.MODEL DREV1 D IS = 1E-015 N = 3.95147 RS = 0.00225008 TNOM = 25

VR1 31 1 0.00879249

DR2 90 32 DREV2 TEMP = 25

.MODEL DREV2 D IS = 1E-015 N = 2.92114 RS = 695.888 TNOM = 25

VR2 32 1 0.0793202

VTRIM 20 0 2.95119

IBVC 0 10 0.001

RBVC 10 0 5100 tc1=0.00015


.ENDS
