* ==========================================================================
* @part: BZX55C9V1
* @family: diodes
* @source: Vishay
* @url: https://www.vishay.com/doc?84091
* @origin-file: vishay/BZX55C9V1.txt
* @retrieved: 2026-09-24
* @licence: notice: "(c)2000 Thomatronik GmbH info@thomatronik.de"
* @added-by: garv.singh
* @pins: bzx55c9v1: 1 2
* @patched: spiceconv dots (8 change(s)), r-model (4 change(s))
* The complete origin file follows (modified, see @patched).
* ==========================================================================

****************************************

* (c)2000 Thomatronik GmbH             *

*   info@thomatronik.de                *

*                                      *

* Author: Arpad Buermen                *

*   Arpad.Burmen@ieee.org              *

*   Arpad.Buermen@fe.uni-lj.si         *

****************************************



* Version: SPICE3

*                    anode     cathode

* Reverse direction: node 1 <- node 2



.SUBCKT bzx55c9v1 1 2

DF 1 2 DFMOD

.MODEL DFMOD D(N=1.19275 IS=2.18787E-013 RS=1.03072 EG=1.11167 XTI=3.05573  TT=1E-006 CJO=8.57E-011 VJ=0.13 M=0.33)

* Leakage

RL 1 2 7E+007 tc1=0.0076 tc2=0


* Breakdown

EZ 2 3 5 0 1

R1 3 4 0.125478

VD1 10 4 0.580266

D1 10 1 DMOD1 TEMP=27

.MODEL DMOD1 D(IS=1e-12 N=1.40602 RS=4.13449 TNOM=27)

VD2 20 4 0.554183

D2 20 1 DMOD2 TEMP=27

.MODEL DMOD2 D(IS=1e-12 N=1.00429 RS=0.481439 TNOM=27)

VD3 30 4 0.139582

D3 30 1 DMOD3 TEMP=27

.MODEL DMOD3 D(IS=1e-12 N=0.212653 RS=5.87344 TNOM=27)

I1 0 5 0.001

RVZ 5 0 9100 tc1=0.0006 tc2=0


.ENDS
