* ==========================================================================
* @part: BZX84C5V6
* @family: diodes
* @source: Vishay
* @url: https://www.vishay.com/doc?84092
* @origin-file: vishay/BZX84C5V6.txt
* @retrieved: 2026-09-24
* @licence: notice: "Copyright(c) Symmetry Design Systems"
* @added-by: garv.singh
* @pins: bzx84_c5v6: 2 1
* @patched: spiceconv dots (7 change(s))
* The complete origin file follows (modified, see @patched).
* ==========================================================================

.SUBCKT bzx84_c5v6 2 1

**************************************

*      Model Generated by MODPEX     *

*Copyright(c) Symmetry Design Systems*

*         All Rights Reserved        *

*    UNPUBLISHED LICENSED SOFTWARE   *

*   Contains Proprietary Information *

*      Which is The Property of      *

*     SYMMETRY OR ITS LICENSORS      *

*Commercial Use or Resale Restricted *

*   by Symmetry License Agreement    *

**************************************

* Model generated on Feb 18, 00

* MODEL FORMAT: PSPICE

*     anode cathode

*node: 2      1

*    Forward Section

D1 2 1 MD1

.MODEL MD1 D IS=4.60908e-14 N=1.10291 XTI=1 RS=1.4423 T_ABS=25  CJO=9e-11 TT=1e-08

*    Leakage Current

R 1 2 MDR 2e+06

.MODEL MDR RES (TC1=0 TC2=0)

*    Breakdown

IZG 4 2 0.3

R4 4 2 750

D3 2 4 MD3

.MODEL MD3 D IS=2.5e-12 N=0.771449 XTI=0 EG=0.1 T_ABS=25

D2 5 4 MD2

.MODEL MD2 D IS=2.5e-12 N=3.14561 XTI=0 EG=0.1 T_ABS=25

EV1 1 5 6 0 1

IBV 0 6 0.001

RBV 6 0 MDRBV 4374.49

.MODEL MDRBV RES (TC1=0.00025603)

*-- SPICE3 DIODE MODEL DEFAULT PARAMETER

*  VALUES ARE ASSUMED

*IS=1E-14 RS=0 N=1 TT=0 CJO=0

*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5

*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27

.ENDS bzx84_c5v6
